US04060636
To a suspension of 3-(3-carbomethoxythioureido)-4-aminobenzophenone (3.29 g.) in toluene (200 ml.) is added p-nitrobenzoyl chloride (1.86 g.). The mixture is refluxed for 18 hours and then cooled to room temperature. The precipitate is collected by filtration, washed with hexane and dried to afford 4.15 g. (87% yield) of 3-(3-carbomethoxythioureido)-4-p-nitrobenzamidobenzophenone, m.p. 205° C., dec. at 210° C.

reactant | 3-(3-carbomethoxythioureido)-4-aminobenzophenone | 3.29 g | C(=O)(OC)NC(NC=1C=C(C(=O)C2=CC=CC=C2)C=CC1N)=S | C16H15N3O3S
reactant | p-nitrobenzoyl chloride | 1.86 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(3-carbomethoxythioureido)-4-p-nitrobenzamidobenzophenone | 87% yield | C(=O)(OC)NC(NC=1C=C(C(=O)C2=CC=CC=C2)C=CC1NC(C1=CC=C(C=C1)[N+](=O)[O-])=O)=S | C23H18N4O6S
